************************************************************************
* auCdl Netlist:
*
* Library Name:  lab_pct
* Top Cell Name: nand_std
* View Name:     schematic
* Netlisted on:  Sep 15 22:23:26 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: lab_pct
* Cell Name:    nand_std
* View Name:    schematic
************************************************************************

.SUBCKT nand_std A B GND OUT VDD
*.PININFO A:I B:I OUT:O GND:B VDD:B
MPM1 OUT B VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MPM0 OUT A VDD VDD P_12_LLRVT W=400e-9 L=60n M=1
MNM1 net19 B GND GND N_12_LLRVT W=200e-9 L=60n M=1
MNM0 OUT A net19 GND N_12_LLRVT W=200e-9 L=60n M=1
.ENDS

